US20010046993A1
B. 2-[3-(4-Benzyl-1-piperazinyl)propyl]isothiazolidine-1,1-dione
Sodium (0.23 g/10.0 mmol) was added to ethanol (20 ml). To the resulting solution was added N-[3-(4-benzyl-1-piperazinyl)propyl]-3-chloro-1-propanesulfonamide in ethanol (20 ml) and the mixture was stirred for 1 day at reflux temperature. The solvent was removed in vacuo and the residue was diluted with dichloromethane (50 ml) and water (50 ml). The aqueous layer was extracted with dichloromethane (50 ml). The combined extracts were washed with brine (50 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (NH2 gel/dichloromethane) to give a colorless oil (0.60 g/21%).

reactant | Sodium | 10.0 mmol, 0.23 g | [Na] | Na
reactant | N-[3-(4-benzyl-1-piperazinyl)propyl]-3-chloro-1-propanesulfonamide | C(C1=CC=CC=C1)N1CCN(CC1)CCCNS(=O)(=O)CCCCl | C17H28ClN3O2S
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[3-(4-Benzyl-1-piperazinyl)propyl]isothiazolidine-1,1-dione | C(C1=CC=CC=C1)N1CCN(CC1)CCCN1S(CCC1)(=O)=O | C17H27N3O2S
